Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUE pain
 
Major Surgical or Invasive Procedure:
 
 
History of Present Illness:
___ post op repair of superior semicircular canal 
dehiscence of right ear at ___. Pt had 2d hospital course. He 
had a R PIV which was notable for 30 mins of bleeding and 
pooling of blood at the site. He was discharged home, feeling 
well. 
1d PTA he noticed some mild tenderness and firmness of his R 
forearm and a blue/black discoloration at the R forearm. When 
pain worsened throughout the day he went to see his PCP's urgent 
care. There he had a ultrasound performed which showed 
superficial and deep venous thrombosis in RUE. He was referred 
to the ED.
In the ED, VSS other than an initial BP 153/94 and ___ pain at 
site. he was given heparin gtt and admitted to medicine.
He reports almost no pain either at RUE or at his ear. No CP, 
SOB, cough, fevers, chills, nausea, vomiting, rash (other than 
discoloration). He has less tenderness and pain at RUE site than 
he did at home. No bleeding, dark stools, BRBPR, HA, confusion, 
weakness, aphasia. 
He denies any trauma to his RUE other than the PIV, which he 
says was not a PICC. He denies any personal history of 
DVT/CVA/PE. His mother had what he believes was a stroke caused 
by a DVT (that is what he was told) that occurred during a 
hospitalization for a stent. No other clots in his siblings or 
parents, and no miscarriages in his female relatives. He has no 
personal history of cancer, no weight loss, night sweats. His 
father was ___ with rectal CA at ___, otherwise no FHx cancer.
ROS otherwise negative 10 systems. 
 
Past Medical History:
Craniotomy For Semicircular Canal Mid Fossa Endoscopic Middle 
Ear Graft Calvarial Bone Graft Fascia Temporalis ___ at ___ 

anxiety
 
Social History:
___
Family History:
mother with ? paradoxical embolism as above
father with rectal CA ___ at ___)

 
Physical Exam:
98.5 PO 158 / 74 74 18 96 ra 
pleasant, NAD
NCAT, well-healing stitches superior to R ear in semi-circular 
formation
MMM
RRR no mrg
CTAB
sntnd
wwp, neg edema
approx. 6cm x5cm bluish discoloration sharply demarcated on R 
anterior forearm, minimally tender cord on R anterior forearm
2+ radials bilaterally, sensation and strength intact BUE/B 
hands/fingers, B hands wwp
wwp, neg edema BLEs
no rash

 
Pertinent Results:
Admission Labs
___ 09:58PM   GLUCOSE-152* UREA N-22* CREAT-1.0 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-28 ANION GAP-16
___ 09:58PM   WBC-12.9* RBC-4.74 HGB-14.1 HCT-41.1 MCV-87 
MCH-29.7 MCHC-34.3 RDW-13.0 RDWSD-40.5
___ 09:58PM   NEUTS-84* BANDS-1 LYMPHS-10* MONOS-4* EOS-1 
BASOS-0 ___ MYELOS-0 AbsNeut-10.97* AbsLymp-1.29 
AbsMono-0.52 AbsEos-0.13 AbsBaso-0.00*
___ 09:58PM   ___ PTT-25.4 ___

Discharge Labs
___ 06:15AM BLOOD Glucose-118* UreaN-18 Creat-0.9 Na-PND 
K-PND Cl-PND HCO3-24
___ 06:15AM BLOOD WBC-12.2* RBC-4.90 Hgb-14.1 Hct-41.6 
MCV-85 MCH-28.8 MCHC-33.9 RDW-12.9 RDWSD-39.3 Plt ___

STUDY:  EXTREMITY US - RIGHT VASCULAR  

DATE OF EXAM:  ___ 5:28 ___
HISTORY:  Swelling of joint of upper arm, right , recent 
craniotomy.
TECHNIQUE:  Two-dimensional real-time grayscale ultrasound Of 
the right neck base and right upper extremity veins (including 
the internal jugular,
subclavian, axillary, brachial and cephalic veins) was 
performed, with color and spectral Doppler analysis, utilizing 
compression and augmentation maneuvers (when appropriate). There 
is normal compressibility of the venous structures of the neck 
base and upper extremity without intraluminal thrombus.  Normal 
color flow and pulsed Doppler wave forms, with appropriate 
augmentation of flow elicited.   

COMPARISON:  None.

FINDINGS:
The right internal jugular vein, subclavian vein and axillary 
vein are patent.
There is acute appearing noncompressible thrombus throughout the 
course of the right cephalic vein. There is acute appearing 
noncompressible thrombus within the right basilic vein also, 
throughout most of its course. The vessel is not completely 
occluded in its distal aspect. There are paired brachial veins, 
one demonstrates partial thrombus. The other brachial vein is 
patent. There is acute appearing thrombus within the right 
antecubital vein, this is the area of maximal tenderness. This 
thrombus extends into a superficial vein of the forearm. This 
superficial forearm vessel appears anechoic but demonstrates 
only partial compressibility consistent with partial thrombus. 
IMPRESSION:
Both deep and superficial venous thrombosis involving the right 
upper extremity as detailed above.

 
Brief Hospital Course:
___ 7d post op craniotomy for dehisced semicircular canal of R 
ear p/w DVT of RUE. 

# DVT: RUE, unclear if provoked or not, since relatively minor 
trauma (PIV) but did have bleed for some period of time and 
could potentially have developed a hematoma. His mother's 
history of a possible paradoxical embolism (at least as he 
describes it) brings further makes familial hypercoagulable as a 
possibility. Thankfully, he is hemodynamically stable and 
without evidence of PE or neurovascular compromise of his RUE. 
Discussed with ENT, and he was cleared to be put on 
anticoagulation.  Discharged patient on lovenox and Coumadin, 
patient education materials given.  Care discussed with ___ 
hematology, and he will followup with them to discuss any need 
for hypercoagulability testing and duration of treatment.

# craniotomy for semicircular canal dehiscence, with mid fossa 
endoscopic middle ear graft and calvarial bone graft fascia 
temporalis: healing well grossly
- contined home prednisone taper (on 60mg po qd for one more 1 
week, then taper down by 10mg daily)- this is to reduce post 
operative swelling.  
- continued po valacyclovir (may take home med since ___ does 
not supply for this indication) which appears to be steroid ppx 
in setting of previous herpes
- decreased oxycodone prn from home dose, cont colace

# insomnia: started post-op, which is likely ___ steroid course, 
just started on trazodone but has not yet filled.  He is taking 
prednisone at night and this is likely contributing to his 
insomnia; counseled to take it in the morning.  

# anxiety:
- cont home Ativan prn at less frequency (pt very rarely uses as 
outpatient)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN severe pain 
2. LORazepam 0.5 mg PO TID:PRN anxiety 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. PredniSONE 60 mg PO DAILY 
Tapered dose - DOWN 
5. Docusate Sodium 100 mg PO BID 
6. ValACYclovir 500 mg PO Q12H 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. LORazepam 0.5 mg PO TID:PRN anxiety 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN severe pain 
5. PredniSONE 60 mg PO DAILY 
Tapered dose - DOWN 
6. ValACYclovir 500 mg PO Q12H 
7. Enoxaparin Sodium 90 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Take the next dose at 11:30 ___, and then at 11 AM tomorrow,then 
approximately every 12 hours apart 
8. Warfarin 5 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Upper extremity DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with right arm swelling and 
pain and you were found to have a clot in your right arm.  We 
discussed your care with the ___ hematologist as 
well as the ___ doctors, and we will discharge you on the blood 
thinner lovenox, which you should take every 12 hours, as well 
as Coumadin, an oral blood thinner.  Please go to the lab at 
___ on ___ to get your INR level checked.  When your INR 
level is greater than 2, you can stop taking lovenox and just 
continue on the coumadin.  I have asked Dr ___ to order this 
test for you.   Also have your provider schedule an appointment 
with hematology when you see them next week.  You should be 
tested for a problem with the clotting of your blood.  Also, 
your hematologist can tell you how long you should remain on the 
Coumadin (I expect it will be for about 3 months)
 
Followup Instructions:
___